US06713474B2
A warm solution of 4-[4-amino-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]phenol (0.082 g) in dimethylformamide (3.4 ml) was added to a The vial was flushed with nitrogen then sealed. The mixture was shaken at 120° C. for 6 hours and then left to cool to ambient temperature over 16 hours. The mixture was diluted with water (11 ml) and then extracted with ethyl acetate to give 2-[4-(4-amino-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzonitrile, m.p. 125° C. (softens).

reactant | 4-[4-amino-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]phenol | 0.082 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)O)C2CCOCC2 | C17H18N4O2
reactant | dimethylformamide | 3.4 ml | CN(C=O)C | C3H7NO
product | 2-[4-(4-amino-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzonitrile | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=C(C#N)C=CC=C1)C=C2)C2CCOCC2 | C24H21N5O2
